US06660738B2
160 mg (0.258 mmol) (2S,4R)-(2,5-Difluoro-benzyl)-[1-(5-propyl-pyrimidin-2-yl)-4-tritylsulfanyl-pyrrolidin-2-ylmethyl]-amine in 2 ml pyridine were treated with 37 μl (0.52 mmol) acetyl chloride at 0° C. The solution was stirred at RT for 1.5 h, poured on ice water and was extracted with EtOAc. The combined organic layers were washed with 1N HCl and brine, dried over Na2SO4 and were evaporated. Column chromatography with EtOAc:hexane 1:2 to 1:1 yielded 170 mg (quant) (2S,4R)-N-(2,5-Difluoro-benzyl)-N-[1-(5-propyl-pyrimidin-2-yl)-4-tritylsulfanyl-pyrrolidin-2-ylmethyl]-acetamide as white foam.

reactant | (2S,4R)-(2,5-Difluoro-benzyl)-[1-(5-propyl-pyrimidin-2-yl)-4-tritylsulfanyl-pyrrolidin-2-ylmethyl]-amine | 0.258 mmol, 160 mg | FC1=C(CNC[C@H]2N(C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=NC=C(C=N2)CCC)C=C(C=C1)F | C38H38F2N4S
reactant | acetyl chloride | 0.52 mmol, 37 μl | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | (2S,4R)-N-(2,5-Difluoro-benzyl)-N-[1-(5-propyl-pyrimidin-2-yl)-4-tritylsulfanyl-pyrrolidin-2-ylmethyl]-acetamide | 170 mg | FC1=C(CN(C(C)=O)C[C@H]2N(C[C@@H](C2)SC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=NC=C(C=N2)CCC)C=C(C=C1)F | C40H40F2N4OS
